US05276049
1-(4'-Cyano-3-nitro-4-biphenylyl)-3-(2-methoxycarbonyl-ethyl)-imidazolidin-2-one
Prepared by reacting 1-(4'-cyano-4-biphenylyl)-3-(2-methoxycarbonyl-ethyl)-imidazolidin-2-one with fuming nitric acid at 0° C.

reactant | 1-(4'-cyano-4-biphenylyl)-3-(2-methoxycarbonyl-ethyl)-imidazolidin-2-one | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(N(CC1)CCC(=O)OC)=O | C20H19N3O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 1-(4'-Cyano-3-nitro-4-biphenylyl)-3-(2-methoxycarbonyl-ethyl)-imidazolidin-2-one | C(#N)C1=CC=C(C=C1)C1=CC(=C(C=C1)N1C(N(CC1)CCC(=O)OC)=O)[N+](=O)[O-] | C20H18N4O5
